US06200981B1
i) 3-Acetoxymethyl-5-[bromomethyl]benzoic acid, ethyl ester
To a stirred solution of 18-crown-6 (0.103 g) in acetonitrile (15 ml) was added potassium acetate (0.38 g). After 30 minutes 3,5-bis[bromomethyl]benzoic acid ethyl ester (2.61 g) was added and the mixture was stirred overnight. The mixture was partitioned between ethyl acetate and water. The organic phase was dried (MgSO4) and evaporated and the residue purified by chromatography eluting with 10% ethyl acetate in isohexane. Yield 0.97 g.

reactant | 18-crown-6 | 0.103 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium acetate | 0.38 g | C(C)(=O)[O-].[K+]
reactant | 3,5-bis[bromomethyl]benzoic acid ethyl ester | 2.61 g | C(C)OC(C1=CC(=CC(=C1)CBr)CBr)=O | C11H12Br2O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-Acetoxymethyl-5-[bromomethyl]benzoic acid, ethyl ester | C(C)(=O)OCC=1C=C(C(=O)OCC)C=C(C1)CBr | C13H15BrO4
